US05468748
9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione 9-ethylene acetal
A suspension of 9H-indeno[1,2-b]pyrazine-3,9(4H)-dione (1.0 g, 5.05 mmol) in ethylene glycol (10 ml), toluene (20 ml) and p-toluenesulfonic acid (20 mg) was refluxed with water separation for 18 hours. The reaction mixture was cooled to room temperature, ethanol (5 ml) was added and the precipitate was filtered off and washed with ethanol and dried to give 1.014 g (83%) of the title compound. M.p. 296°-298° C. 1H-NMR (DMSO-d6, δ): 4.3-4.42 (m, 4H), 7.43-7.6 (m, 3H), 7.75 (d, 1H), 7.88 (s, 1H), 12.7 (s, 1H).

reactant | 9H-indeno[1,2-b]pyrazine-3,9(4H)-dione | 5.05 mmol, 1.0 g | N=1C2=C(NC(C1)=O)C=1C=CC=CC1C2=O | C11H6N2O2
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione 9-ethylene acetal | 1.014 g, 83% | C1COC2(C=NC3=C(N2)C=2C=CC=CC2C3=O)O1 | C13H10N2O3
